.title KiCad schematic
.include "/Users/hauksbee-user/Tarski/Tarski-Repos/board-corpus/kicad-demos-src/demos/simulation/laser_driver/ad8009.lib"
.include "/Users/hauksbee-user/Tarski/Tarski-Repos/board-corpus/kicad-demos-src/demos/simulation/laser_driver/fzt1049a.lib"
.include "/Users/hauksbee-user/Tarski/Tarski-Repos/board-corpus/kicad-demos-src/demos/simulation/laser_driver/laser.lib"
.tran 10p 150n
R2 Net-_U1-+_ /in 160
R1 Net-_U1--_ GND 220
R3 Net-_Q1-E_ Net-_U1--_ 220
C1 Net-_U1--_ Net-_Q1-E_ 1p
XU1 Net-_U1-+_ Net-_U1--_ VDD VSS Net-_Q1-B_ ad8009
V1 /in GND PULSE( 0 3 100n 1n 1n 20n 100n ) 
D1 /out GND laser
R5 /out Net-_Q1-E_ 2.5
C2 /out Net-_Q1-E_ 1p
V2 VDD GND DC 10 
V3 GND VSS DC 10 
Q1 VDD Net-_Q1-B_ Net-_Q1-E_ fzt1049a
R4 /out Net-_U1-+_ 220
.end
